US06028223
Preparation of N-[2-[[(3-nitrophenyl)carbonyl]amino]-1-oxoethyl]-β-alanine, ethyl ester
N,N'-Disuccinimidyl carbonate (14 g, 5.5 mmol) was added to 3-nitrobenzoyl glycine (10 g, 4.5 mmol) of Example BB in dry dimethylformamide (30 mL) followed by N,N-dimethylaminopyridine (200 mg). After a period of 1 hour beta-alanine ethyl ester hydrochloride (7 g, 4.6 mmol) in 20% aqueous potassium carbonate (50 mL) was added in one portion. After complete reaction the product was collected by filtration (14 g, 97% yield). 1H-NMR (d6 -DMSO) δ, 1.18 (t, 3H, J=7.2 Hz), 2.46 (t, 2H, J=7.0), 3.34 (q, 2H, J1 =6.7 Hz, J2 =12.6 Hz), 3.87 (d, 2H, J=5.9 Hz), 4.05 (q, 2H, J1 =7.4 Hz, J2 =14.2 Hz), 7.8 (t, 1H, J=8.0 Hz), 8.1 (t, 1H, J=5.6 Hz), 8.35 (m, 2H), 8.71 (s, 1H), 9.22 (bs, 1H).

reactant | N,N'-Disuccinimidyl carbonate | 5.5 mmol, 14 g | C1CC(=O)N(C1=O)OC(=O)ON2C(=O)CCC2=O | C9H8N2O7
reactant | 3-nitrobenzoyl glycine | 4.5 mmol, 10 g | [N+](=O)([O-])C=1C=C(C(=O)NCC(=O)O)C=CC1 | C9H8N2O5
reactant | beta-alanine ethyl ester hydrochloride | 4.6 mmol, 7 g | Cl.C(C)OC(CCN)=O
solvent | dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
solvent | potassium carbonate | 50 mL | C([O-])([O-])=O.[K+].[K+]
product | N-[2-[[(3-nitrophenyl)carbonyl]amino]-1-oxoethyl]-β-alanine, ethyl ester | 97% yield | [N+](=O)([O-])C=1C=C(C=CC1)C(=O)NCC(=O)NCCC(=O)OCC | C14H17N3O6
